US09284286B2
To a solution of 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester (0.6 g, 1.6 mmol) in EtOH (1.5 ml) is added an aqueous solution (1.5 ml) of potassium carbonate (0.22 g, 4.0 mmol) and the mixture is stirred at RT for 16 h. After completion of the reaction, the solvent is evaporated and the residue is diluted with water (30 ml), acidified with 2M hydrochloric acid to pH 3 and extracted with EtOAc (3×40 ml) yielding 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid (0.41 g, 1.19 mmol, 74%).

reactant | 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid ethyl ester | 1.6 mmol, 0.6 g | C(C)OC(=O)C1=C(N=C(S1)C)SCCC(C1=CC=C(C=C1)F)(F)F | C16H16F3NO2S2
reactant | potassium carbonate | 4.0 mmol, 1.5 ml, 0.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 1.5 ml | CCO | C2H6O
product | 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-2-methyl-thiazole-5-carboxylic acid | 1.19 mmol, 0.41 g, 74% | FC(CCSC=1N=C(SC1C(=O)O)C)(C1=CC=C(C=C1)F)F | C14H12F3NO2S2
